US08623893B2
2.3/4-Cyclopropyl-morpholine-3-carboxamide
2.9 g of molecular sieve 3A, 4.3 g (72 mmol) of acetic acid, 7.6 g (43.2 mmol) of 2(1-ethoxy-cyclopropyl)oxy]trimethylsilane and 4.4 g (31.7 mmol) of sodium cyanoborohydride are added successively to 1.2 g (7.2 mmol) of morpholine-3-carboxylic acid amide hydrochloride (WO2005026156 Hennequin L. F. A. et al.) in solution in methanol (36 ml). The reaction mixture is heated at 70° C. for 3.5 hours, then cooled to room temperature and filtered. The filtrate is concentrated under reduced pressure, then the residue is taken up in dichloromethane (200 ml) and washed 3 times with an aqueous solution of NaOH (1N) (100 ml). The organic phase is dried over Na2SO4, filtered and then concentrated under reduced pressure. 0.58 g of product is obtained, in the form of a white powder. Yield 47%. Melting point 116° C. MH+: 171 (Tr: 1.03 min, condition 2).

reactant | acetic acid | 72 mmol, 4.3 g | C(C)(=O)O | C2H4O2
reactant | trimethylsilane | C[SiH](C)C | C3H10Si
reactant | sodium cyanoborohydride | 31.7 mmol, 4.4 g | C(#N)[BH3-].[Na+]
reactant | morpholine-3-carboxylic acid amide hydrochloride | 7.2 mmol, 1.2 g | Cl.N1C(COCC1)C(=O)N
solvent | methanol | 36 ml | CO | CH4O
product | 4-Cyclopropyl-morpholine-3-carboxamide | 0.58 g, Yield 47% | C1(CC1)N1C(COCC1)C(=O)N | C8H14N2O2
